US09193935B2
2.2 (4-Methyltridec-2-enyl)benzene
Starting from phenethyltriphenylphosphonium bromide (3.60 g, 8.05 mmol, 1.0 equiv.), n-BuLi (1.6 M in hexanes, 5.0 mL, 8.05 mmol, 1.0 equiv.) and 2-methylundecanal (2.25 g, 12.1 mmol, 1.5 equiv.), 1.33 g (61%) of the title compound as a colorless oil was obtained after purification by flash chromatography on SiO2 (hexanes).

reactant | phenethyltriphenylphosphonium bromide | 8.05 mmol, 3.60 g, 1.0 equiv. | [Br-].C(CC1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 8.05 mmol, 1.6 M, 5.0 mL, 1.0 equiv. | [Li]CCCC
reactant | 2-methylundecanal | 12.1 mmol, 2.25 g, 1.5 equiv. | CC(C=O)CCCCCCCCC | C12H24O
product | (4-Methyltridec-2-enyl)benzene | 1.33 g, 61% | CC(C=CCC1=CC=CC=C1)CCCCCCCCC | C20H32
